US06833371B2
Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP) (0.081 g, 0.184 mmol) was added to a suspension of 7-amino-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (0.050 g, 0.154 mmol) and benzylamine (0.034 mL, 0.308 mmol) in tetrahydrofuran (5 ml) containing triethylamine (0.064 mL, 0.462 mmol). The reaction mixture was stirred overnight at room temperature, diluted with ethyl ether (5 mL) and washed with a saturated aqueous solution of sodium bicarbonate (10 mL). The organic layer was collected, concentrated under reduced pressure and the crude product was purified by column chromatography to give 7-amino-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid benzylamide (0.026 g, 55%).

reactant | Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.184 mmol, 0.081 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 7-amino-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.154 mmol, 0.050 g | NC1=CC(=NC=2N1N=C(C2)C(=O)O)C2=CC(=C(C=C2)Cl)Cl | C13H8Cl2N4O2
reactant | benzylamine | 0.308 mmol, 0.034 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.462 mmol, 0.064 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 5 mL | C(C)OCC | C4H10O
product | 7-amino-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid benzylamide | 0.026 g, 55% | C(C1=CC=CC=C1)NC(=O)C1=NN2C(N=C(C=C2N)C2=CC(=C(C=C2)Cl)Cl)=C1 | C20H15Cl2N5O
